*****************************************************************
* NXP BUK7Y7R6-40E
*
* Polarity N-Channel
* Ratings 40V/7.600000E-003OHMS/79.6064561822581A
*
* Date Created Thu Jan 31 01:30:21 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y7R6-40E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 3e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 5.3e-10
RLS2 SOURCE 8 1.33203528512207
RLS1 8 7 0.0002

RDS 7 4 40000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00296573850006369 TC=0.00366831780180053,2.43299973997094E-05
RBD 9 4 0.00165224363061304 TC=0.00366831780180053,2.43299973997094E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 1.14125133265333e-09
RG 1 2 1.97663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	1214.21
+ -10	1213.05
+ -8	1210.83
+ -6	1201.22
+ -5	1185.95
+ -4	1169.87
+ -3	1141.09
+ -2	985.228
+ -1	827.383
+ -0.5	730.613
+ -0.2	663.858
+ -0.1	661.996
+ 0	624.03034
+ 0.1	544.20256
+ 0.2	543.63308
+ 0.5	432.22828
+ 1	341.76284
+ 2	284.2518
+ 3	258.30664
+ 4	242.11304
+ 5	230.80924
+ 6	222.2278
+ 8	210.06416
+ 10	201.75868
+ 12	195.4876
+ 15	188.14016
+ 16	185.92764
+ 20	178.77172
+ 25	171.74448
+ 32	164.60844



.MODEL MINT NMOS(Vto=3.66873850006369 Kp=6.775148e+001 Nfs=840000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)


.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=4e-13
+ N=1 M=0.63 VJ=0.5 Fc=0.5 Cjo=1.01123752e-09 Tt=8.4e-09)

.ENDS

